US08710084B2
Production of (Z)-(1-methyl-1H-tetrazol-5-yl)phenyl methanone-O-{2-[(1-n-propoxyimino)ethane carbonyl amino]pyridin-6-yl methyl}-oxime (Compound I-a-5)
0.12 g (0.70 mmol) of 2-n-propoxyimino-propionic acid ethyl ester was dissolved in 2 ml of methanol and 0.035 g (0.91 mmol) of sodium hydroxide was added to the resulting solution, followed by stirring for 1 hour at room temperature. The solvent was distilled off under reduced pressure, and neutralized with 2N hydrochloric acid, and extracted with chloroform. The organic layer was dried by adding magnesium sulfate, and concentrated tinder reduced pressure to obtain a white solid substance. The white solid substance was dissolved in 5 ml of methylene chloride, and stirred for 40 minutes at room temperature after adding 0.11 g (0.84 mmol) of oxalyl chloride, and concentrated tinder reduced pressure. The residue was dissolved in 5 ml of methylene chloride and stirred for 1 hour at room temperature after adding 0.10 g (0.99 mmol) of triethylamine and 0.14 g (0.45 mmol) of (Z)-(1-methyl-1H-tetrazol-5-yl)phenyl methanone-O-[2-aminopyridin-6-yl methyl]-oxime. The solvent was distilled off and the resulting residue was purified by silica gel column chromatography (eluent: hexane:ethyl acetate=4:1 (v/v)) to obtain 0.10 g of the target compound.

reactant | 2-n-propoxyimino-propionic acid ethyl ester | 0.70 mmol, 0.12 g | C(C)OC(C(C)=NOCCC)=O | C8H15NO3
reactant | sodium hydroxide | 0.91 mmol, 0.035 g | [OH-].[Na+]
reactant | oxalyl chloride | 0.84 mmol, 0.11 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 0.99 mmol, 0.10 g | C(C)N(CC)CC | C6H15N
reactant | (Z)-(1-methyl-1H-tetrazol-5-yl)phenyl methanone-O-[2-aminopyridin-6-yl methyl]-oxime | 0.45 mmol, 0.14 g | NC1=NC(=CC=C1)CO\N=C(\C1=CC=CC=C1)/C1=NN=NN1C | C15H15N7O
solvent | methanol | 2 ml | CO | CH4O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (Z)-(1-methyl-1H-tetrazol-5-yl)phenyl methanone-O-{2-[(1-n-propoxyimino)ethane carbonyl amino]pyridin-6-yl methyl}-oxime | 0.10 g | C(CC)ON=CCC(=O)NC1=NC(=CC=C1)CO\N=C(\C1=CC=CC=C1)/C1=NN=NN1C | C21H24N8O3
